US06630461B2
44.2 2-(3,5-di-t-butyl-4-hydroxyphenyl)-3-(4-aminophenyl)-4-thiazolidinone
1.3 g of 2-(3,5-di-t-butyl-4-hydroxyphenyl)-3-(4-nitrophenyl)-4-thiazolidinone (3 mmol) and 3.4 g (15 mmol) of dihydrated tin chloride are dissolved in 25 ml of ethyl acetate. The reaction is maintained for 2 hours at 70° C. After the mixture has returned to ambient temperature, it is poured into a saturated solution of sodium hydrogen carbonate. The expected product is then extracted from the organic phase then it is washed 3 times with 10 ml of water. The 2-(3,5-di-t-butyl-4-hydroxyphenyl)-3-(4-aminophenyl)-4-thiazolidinone is purified on silica gel in an ethyl acetate/heptane mixture (1/1) and is obtained in the form of a beige oil with a yield of 69% (0.82 g).

reactant | 2-(3,5-di-t-butyl-4-hydroxyphenyl)-3-(4-nitrophenyl)-4-thiazolidinone | 3 mmol, 1.3 g | C(C)(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)C1SCC(N1C1=CC=C(C=C1)[N+](=O)[O-])=O | C23H28N2O4S
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | ethyl acetate | 25 ml | C(C)(=O)OCC | C4H8O2
product | 2-(3,5-di-t-butyl-4-hydroxyphenyl)-3-(4-aminophenyl)-4-thiazolidinone | yield of 69% | C(C)(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)C1SCC(N1C1=CC=C(C=C1)N)=O | C23H30N2O2S
